US08008303B2
5′-tert-Butoxycarbonylamino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid ethyl ester
A mixture of (3-bromo-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester (250 mg), 4-ethoxycarbonyl-phenyl boronic acid (136 mg), cesium carbonate (228 mg) and tetrakis(triphenylphosphine)palladium0 (catalytic quantity), in 1:2 aqueous DME (15 ml) was heated to reflux for 18 h. The mixture was then cooled and partitioned between water and ethyl acetate. The dried extracts were evaporated and the residue purified on silica gel. Elution with 5-40% ethyl acetate:petrol gave a pale yellow solid (217 mg)

reactant | (3-bromo-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester | 250 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1)OC(F)(F)F)Br)=O | C12H13BrF3NO3
reactant | 4-ethoxycarbonyl-phenyl boronic acid | 136 mg | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | cesium carbonate | 228 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME | 15 ml | COCCOC | C4H10O2
product | 5′-tert-Butoxycarbonylamino-2′-trifluoromethoxy-biphenyl-4-carboxylic acid ethyl ester | 217 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)OC(C)(C)C)OC(F)(F)F | C21H22F3NO5
